US07790770B2
To a suspension of (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone oxime (3.5 g, 8.6 mmol) in EtOH (30 mL) and conc. NH4OH (50 mL) was added ammonium acetate (754 mg, 19.8 mmol), followed by zinc powder (3.2 g, 49.1 mmol) and the reaction mixture was heated at reflux for 3 h. The reaction mixture was allowed to cool to rt then filtered through celite. The solid was washed with 1 N NaOH (10 mL) and MeOH (10 mL). The combined filtrate was extracted concentrated and the residue was partitioned between EtOAc and water. The organic layer was separated and washed with 1 N NaOH (15 mL), sat. NaCl (2×10 mL), dried over MgSO4, filtered and concentrated under reduced pressure to yield (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanamine (2.8 g, 83% yield) as a light yellow oil. LCMS: RT=1.76 min [M−NH2] 377.1 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); 1H NMR (400 MHz, CDCl3) δ ppm 6.97-7.09 (4H, m), 6.81-6.89 (2H, m), 5.76-6.03 (1H, m), 5.14 (1H, s), 4.52 (1H, ddd, J=11.97, 6.15, 6.04 Hz), 1.73 (2H, bs), 1.29-1.36 (6H, m).

reactant | (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone oxime | 8.6 mmol, 3.5 g | FC1=C(C=C(C=C1)C(=NO)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)OC(C)C | C18H15F6NO3
reactant | ammonium acetate | 19.8 mmol, 754 mg | C(C)(=O)[O-].[NH4+]
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | NH4OH | 50 mL | [NH4+].[OH-]
catalyst | zinc | 49.1 mmol, 3.2 g | [Zn] | Zn
product | (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanamine | 2.8 g, 83% yield | FC1=C(C=C(C=C1)C(N)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)OC(C)C | C18H17F6NO2
